US08492582B2
Dioxane (3 mL) and a 2 mol/L aqueous solution of sodium hydroxide (1.7 mL) were added to the obtained methyl 2-(2-acetoxy-4-methylbenzamido)-4-phenylbenzoate (0.14 g), followed by stirring at room temperature for 2 hours and 30 minutes. The reaction mixture was adjusted to a pH of 3.0 with 6 mol/L hydrochloric acid. The solid substance was collected by filtration to obtain 0.042 g of 2-(2-hydroxy-4-methylbenzamido)-4-phenylbenzoic acid as a white solid.

reactant | sodium hydroxide | 1.7 mL | [OH-].[Na+]
reactant | methyl 2-(2-acetoxy-4-methylbenzamido)-4-phenylbenzoate | 0.14 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)C | C24H21NO5
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | Dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-(2-hydroxy-4-methylbenzamido)-4-phenylbenzoic acid | 0.042 g | OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)C | C21H17NO4
